US09108966B2
TEMPO (48 mg, 0.3 mmol) was added in portioned to a solution of (2S,5R)-6-(benzyloxy)-2-(hydroxymethyl)-1,6-diazabicyclo[3.2.1]octan-7-one (7.8 g, 30 mmol) and 1,3,5-trichloro-1,3,5-triazinane-2,4,6-trione (7.0 g, 30 mmol) in DCM (100 mL) at 0° C. The mixture was stirred at 0° C. for 2 h, and filtered through Celite®. The filtrate was dried over Na2SO4 and concentrated to afford (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde (7.0 g, 90%) as a yellow oil. ESI-MS (EI+, m/z): 261.1. 1H-NMR (500M, CDCl3): 9.74 (s, 1H), 7.45-7.36 (m, 5H), 5.07 (d, J=11.5 Hz, 1H), 4.92 (d, J=11.5 Hz, 1H), 3.89 (d, J=8.0 Hz, 1H), 3.27 (m, 1H), 3.21-3.05 (m, 1H), 2.56 (d, J=12.0 Hz, 1H), 2.20-2.15 (m, 1H), 2.05-2.01 (m, 1H), 1.95-1.93 (m, 1H), 1.49-1.46 (m, 1H).

reactant | (2S,5R)-6-(benzyloxy)-2-(hydroxymethyl)-1,6-diazabicyclo[3.2.1]octan-7-one | 30 mmol, 7.8 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)CO | C14H18N2O3
reactant | 1,3,5-trichloro-1,3,5-triazinane-2,4,6-trione | 30 mmol, 7.0 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | TEMPO | 0.3 mmol, 48 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde | 7.0 g, 90% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=O | C14H16N2O3
